US07713996B2
Benzenesulfonyl-2,3-dihydro-1H-indole-6-carboxylic acid (40 mg, 0.13 mmol) was added to a solution of thionyl chloride (63 mg, 0.53 mmol, 4 equiv.) in dichloromethane (5 ml) and DMF (1 ml). The reaction mixture was stirred for 2 hours, then the solvent was removed. The crude acyl chloride was redissolved in dichloromethane (5 ml) and treated with 4-amino benzoic acid methyl ester (80 mg, 0.53 mmol, 4 equiv.). The mixture was stirred for 30 min. at room temperature, then the solvent was removed. The residue was purified by flash chromatography, yielding 4-[(1-benzenesulfonyl-2,3-dihydro-1H-indole-6-carbonyl)-amino]-benzoic acid methyl ester as a white solid, 42 mg (73%). MS (ISP): m/e=437.3 (M+H+.), δH (300 MHz; CDCl3) 8.02-8.09 (4H, m), 7.82 (2H, d), 7.77 (2H, d), 7.45-7.61 (4H, m), 7.21 (2H, d), 3.98 (2H, t), 3.92 (3H, s), 2.97 (2H, t).

reactant | Benzenesulfonyl-2,3-dihydro-1H-indole-6-carboxylic acid | 0.13 mmol, 40 mg | C1(=CC=CC=C1)S(=O)(=O)N1CCC2=CC=C(C=C12)C(=O)O | C15H13NO4S
reactant | thionyl chloride | 0.53 mmol, 63 mg, 4 equiv. | S(=O)(Cl)Cl | Cl2OS
reactant | 4-amino benzoic acid methyl ester | 0.53 mmol, 80 mg, 4 equiv. | COC(C1=CC=C(C=C1)N)=O | C8H9NO2
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
product | 4-[(1-benzenesulfonyl-2,3-dihydro-1H-indole-6-carbonyl)-amino]-benzoic acid methyl ester | COC(C1=CC=C(C=C1)NC(=O)C1=CC=C2CCN(C2=C1)S(=O)(=O)C1=CC=CC=C1)=O | C23H20N2O5S
